US07723329B2
7-(2-Chloro-ethoxy)-1-methyl-3-(naphthalene-1-sulfonyl)-1H-indazole
A mixture of 7-(2-chloro-ethoxy)-3-(naphthalene-1-sulfonyl)-1-H-indazole (0.7 g, 1.8 mmoles), methyl iodide (0.28 mL, 2.17 mmoles), and potassium carbonate (0.29 g, 2.17 mmoles) in DMF (10 mL) was stirred together in a round bottom flask at room temperature for 2 hours. Reaction mixture was diluted with H2O, extracted with EtOAc, washed with water (2×), brine (1×), dried over Na2SO4, and concentrated under vacuum. The crude product was purified by HPLC using as eluent 30% EtOAc/hexane to afford the title compound as an off-white solid, 0.55 g, 1.375 mmoles.

reactant | 7-(2-chloro-ethoxy)-3-(naphthalene-1-sulfonyl)-1-H-indazole | 1.8 mmoles, 0.7 g | ClCCOC=1C=CC=C2C(=NNC12)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C19H15ClN2O3S
reactant | methyl iodide | 2.17 mmoles, 0.28 mL | CI | CH3I
reactant | potassium carbonate | 2.17 mmoles, 0.29 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 7-(2-Chloro-ethoxy)-1-methyl-3-(naphthalene-1-sulfonyl)-1H-indazole | ClCCOC=1C=CC=C2C(=NN(C12)C)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C20H17ClN2O3S
